US07456164B2
1-acetyl-4-({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}methyl)piperazine
The title compound (73 mg, 73%) was prepared using 1-({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}methyl) piperazine and acetic anhydride similarly to the procedure used for example 166. 1H NMR (400 MHz, CDCl3) δ 1.31-1.34 (m, 3H), 1.48-1.53 (m, 5H), 1.82-1.85 (m, 4H), 1.99 (s, 3H), 2.02-2.07 (m, 4H), 2.13-2.17 (m, 4H), 2.28 (s, 2H), 2.58-2.64 (m, 4H), 2.70 (t, 2H), 3.20 (t, 2H), 3.41-3.43 (m, 2H), 4.01 (t, 2H), 6.83 (d, 2H), 7.25 (d, 2H). HRMS ESI+ m/z 428.3264 [MH]+.

reactant | 1-({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}methyl) piperazine | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCCCC1)CN1CCNCC1 | C24H39N3O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-4-({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}methyl)piperazine | 73 mg, 73% | C(C)(=O)N1CCN(CC1)CC1(CCCCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C26H41N3O2
